US06355618B1
A mixture of 3-(2-hydroxyphenyl)propionic acid (0.57 g, 3.4 mmol), phenylbromide (0.4 ml, 3.37 mmol), and K2CO3 (2.5 g) in acetone (10 ml) was stirred at room temperature for 2 days. The mixture was diluted with 1:1 hexane/EtOAc (100 ml), washed with water and brine, dried over sodium sulfate and concentrated in vacuo. The residue was purified by chromatography (5:1 then 4:1 hexane/EtOAc) to yield phenyl 3-(2-phenyloxyphenyl)propionate (0.45 g, 1.30 mmol, 77%).

reactant | 3-(2-hydroxyphenyl)propionic acid | 3.4 mmol, 0.57 g | OC1=C(C=CC=C1)CCC(=O)O | C9H10O3
reactant | phenylbromide | 3.37 mmol, 0.4 ml | C1(=CC=CC=C1)Br | C6H5Br
reactant | K2CO3 | 2.5 g | C(=O)([O-])[O-].[K+].[K+]
solvent | acetone | 10 ml | CC(=O)C | C3H6O
solvent | hexane EtOAc | 100 ml | CCCCCC.CCOC(=O)C
product | phenyl 3-(2-phenyloxyphenyl)propionate | 1.30 mmol, 0.45 g, 77% | C1(=CC=CC=C1)OC1=C(C=CC=C1)CCC(=O)OC1=CC=CC=C1 | C21H18O3
